
*.subckt CAPX1 A B
*C1 B A sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
*.ends


.subckt CAPX4 A B
XA1 A B CAPX1 xoffset=2 yoffset=1.5
XA2 A B CAPX1 yoffset=1.5
XB1 A B CAPX1 xoffset=2
XB2 A B CAPX1 yoffset=1.5
.ends
